### PR TITLE
[WIP] Poly rewrites

### PR DESCRIPTION
**Pull request by goens**
Add a few rewrites to FHE and fix things to keep up with changing APIs

This needs syntax to translate statements into Peephole rewrites in ICom, but that should be a separate PR

### CODE REVIEW

**Comment by goens** [comment]
(just noticed that the HEOR dialect has changed a bit, will update to reflect that also as part of this PR)

File: SSA/Projects/FullyHomomorphicEncryption/Statements.lean [hunk 1]
```diff
@@ -25,12 +27,14 @@ theorem poly_add_f_eq : a + (f q n) = a := by
...
+  constructor
+  · intros hRep
+    have hFromPolyRep : R.fromPoly (q := q) (n := n) a.representative = R.fromPoly (q := q) (n := n) b.representative := by
+      rw [hRep]
+    rw [R.fromPoly_representative _ _ _ , R.fromPoly_representative _ _ _ ] at hFromPolyRep
+    assumption
+  · intro h; rw [h]
 
 open Polynomial in
 theorem from_poly_zero : R.fromPoly (0 : (ZMod q)[X]) (n := n) = (0 : R q n) := by
```
Comment (alexkeizer) [inline SSA/Projects/FullyHomomorphicEncryption/Statements.lean:40]:
```suggestion
theorem fromPoly_zero : R.fromPoly (0 : (ZMod q)[X]) (n := n) = (0 : R q n) := by
```

File: SSA/Projects/FullyHomomorphicEncryption/Statements.lean [hunk 2]
```diff
@@ -0,0 +1,234 @@
+import SSA.Projects.FullyHomomorphicEncryption.Basic
+import Std.Data.List.Lemmas
+import Mathlib.Data.List.Basic
+
+variable {q t : Nat} [ hqgt1 : Fact (q > 1)] {n : Nat}
+variable (a b : R q n)
+
+theorem poly_mul_comm : a * b = b * a := by
```
Comment (alexkeizer) [inline SSA/Projects/FullyHomomorphicEncryption/Statements.lean:8]: I think it would make more sense to put these definition in a namespace, e.g. `Polynomial`, and call them `Polynomial.mul_comm`

File: SSA/Projects/FullyHomomorphicEncryption/Statements.lean [hunk 3]
```diff
@@ -0,0 +1,234 @@
...
+      contradiction
+    apply R.trimTensor_append_not_zero  _ _ hNe' 
+
+theorem poly_toTensor_fromTensor (tensor : List Int) (i : Nat): 
+  (R.fromTensor tensor (q:=q) (n :=n)).toTensor.getD i 0 = tensor.getD i 0 := by
+  by_cases (i < (trimTensor tensor).length)
+  · sorry
+  · sorry
+
+theorem poly_toTensor_fromTensor_trimmTensor (tensor : List Int) {l : Nat}:
```
Comment (alexkeizer) [inline SSA/Projects/FullyHomomorphicEncryption/Statements.lean:202]:
```suggestion
theorem poly_toTensor_fromTensor_trimTensor (tensor : List Int) {l : Nat}: 
```

**Review by alexkeizer — CHANGES_REQUESTED** [review]
I'm not a big fan of the `poly_` prefix a lot of theorems have, that feels like it should be a namespace.
Besides that, I've only got minor complaints about the formatting and naming convention

**Comment by tobiasgrosser** [comment]
This is a huge and very long-running patch. Can we merge some of this already?

**Comment by goens** [comment]
should we just merge this then and address the sorries later in a different PR, as discussed? If so, feel free to merge it @bollu @tobiasgrosser .

**Comment by bollu** [comment]
I'd request another round of review from @ChrisHughes24 and @alexkeizer , as I could definitely use some lean and mathlib supervision :)

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean [hunk 4]
```diff
@@ -43,6 +48,62 @@ theorem WithBot.npow_coe_eq_npow (n : Nat) (x : ℕ) : (WithBot.some x : WithBot
...
+--   · exfalso
+--     apply Nat.not_lt_zero 1
+--     exact h
+--   · simp [Fin]
+--   done
+
+def ZMod.toInt (x : ZMod q) : Int := ZMod.cast x
+def ZMod.toFin (x : ZMod q) : Fin q := ZMod.cast x
+
+theorem ZMod.toInt_coe_eq (x : ZMod q) : ↑(x.toInt) = x := by
```
Comment (ChrisHughes24) [inline SSA/Projects/FullyHomomorphicEncryption/Basic.lean:64]: this is `coe_toInt`

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean [hunk 5]
```diff
@@ -43,6 +48,62 @@ theorem WithBot.npow_coe_eq_npow (n : Nat) (x : ℕ) : (WithBot.some x : WithBot
...
+  unfold toInt
+  simp
+
+theorem ZMod.cast_eq_val' [Fact (q > 1)](x : ZMod q) : @cast ℤ Ring.toAddGroupWithOne q x = (val x : ℕ) := by
```
Comment (ChrisHughes24) [inline SSA/Projects/FullyHomomorphicEncryption/Basic.lean:68]: I don't understand the statement. Also you can use type ascriptions to make sure that you trigger the right coercion and maybe use two type ascriptions for two coercions e.g. `((x : Nat) : Int)`

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean [hunk 6]
```diff
@@ -43,6 +48,62 @@ theorem WithBot.npow_coe_eq_npow (n : Nat) (x : ℕ) : (WithBot.some x : WithBot
...
+  rw[ZMod.cast_eq_val]
+
+theorem ZMod.eq_from_toInt_eq (x y : ZMod q) (h : x.toInt = y.toInt) : x = y := by
```
Comment (ChrisHughes24) [inline SSA/Projects/FullyHomomorphicEncryption/Basic.lean:71]:
```suggestion
@[simp]
theorem ZMod.toInt_inj {x y : ZMod q} : x.toInt = y.toInt \iff x = y := by
```

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean [hunk 7]
```diff
@@ -43,6 +48,62 @@ theorem WithBot.npow_coe_eq_npow (n : Nat) (x : ℕ) : (WithBot.some x : WithBot
...
+  simp [toInt] at h
+  apply ZMod.val_injective
+  rw[ZMod.cast_eq_val'] at h
+  rw[ZMod.cast_eq_val'] at h
+  norm_cast at h
+
+/-- Surely this cannot take these many lines of code? -/
+def ZMod.toInt_zero_iff_zero (x : ZMod q) : x = 0 ↔ x.toInt = 0 := by
```
Comment (ChrisHughes24) [inline SSA/Projects/FullyHomomorphicEncryption/Basic.lean:79]: This follows from `toInt_inj` and the fact that `toInt 0 = 0`

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean [hunk 8]
```diff
@@ -81,72 +142,240 @@ abbrev R := (ZMod q)[X] ⧸ (Ideal.span {f q n})
 -- Coefficients of `a : R' q n` are `a\_i : Zmod q`.
 -- TODO: get this from mathlib
 
-/-- Canonical epimorphism `ZMod q[X] ->*+ R q n` -/
+/-- Canonical epimorphism / quotient map: `ZMod q[X] ->*+ R q n` -/
 abbrev R.fromPoly {q n : Nat} : (ZMod q)[X] →+* R q n := Ideal.Quotient.mk (Ideal.span {f q n})
```
Comment (ChrisHughes24) [inline SSA/Projects/FullyHomomorphicEncryption/Basic.lean:146]: There's an elaborator improvement in the latest Lean that might make this faster if you don't have that version already.

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean [hunk 9]
```diff
@@ -81,72 +142,240 @@ abbrev R := (ZMod q)[X] ⧸ (Ideal.span {f q n})
...
 
-noncomputable abbrev R.zero {q n : Nat} : R q n := R.fromPoly 0
-noncomputable abbrev R.one {q n : Nat} : R q n := R.fromPoly 1
+/-- fromPoly, the canonical epi from `ZMod q[X] →*+ R q n` is surjective -/
+theorem R.surjective_fromPoly (q n : ℕ) : Function.Surjective (R.fromPoly (q := q) (n := n)) := by
+  simp[R.fromPoly]
+  apply Ideal.Quotient.mk_surjective
+
+private noncomputable def R.representative' : R q n → (ZMod q)[X] := Function.surjInv (R.surjective_fromPoly q n)
```
Comment (ChrisHughes24) [inline SSA/Projects/FullyHomomorphicEncryption/Basic.lean:153]: What's the point in this when you have `representative`. There's never a reason to use this one, you just know less things about it and it could even be equal to `representative`

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean [hunk 10]
```diff
@@ -81,72 +142,240 @@ abbrev R := (ZMod q)[X] ⧸ (Ideal.span {f q n})
...
 
-private noncomputable def R.representative' : R q n → (ZMod q)[X] := Function.surjInv Ideal.Quotient.mk_surjective
 /--
 The representative of `a : R q n` is the (unique) polynomial `p : ZMod q[X]` of degree `< 2^n`
  such that `R.fromPoly p = a`.
 -/
 noncomputable def R.representative : R q n → (ZMod q)[X] := fun x => R.representative' q n x %ₘ (f q n)
 
+@[simp]
+theorem R.fromPoly_kernel_eq_zero (x : (ZMod q)[X]) : R.fromPoly (n := n) (f q n * x) = 0 := by
```
Comment (ChrisHughes24) [inline SSA/Projects/FullyHomomorphicEncryption/Basic.lean:175]: Yould just prove that `R.fromPoly (f q n) = 0` and then simp would prove this from ringhom properties and ring properties.

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean [hunk 11]
```diff
@@ -81,72 +142,240 @@ abbrev R := (ZMod q)[X] ⧸ (Ideal.span {f q n})
...
+   unfold fromPoly
+   apply Ideal.Quotient.eq_zero_iff_mem.2
+   rw [Ideal.mem_span_singleton]
+   simp [Dvd.dvd]
+   use x
+
 /--
-`R.representative` is in fact a representative of the equivalence class.
+`R.'representative'` is in fact a representative of the equivalence class.
```
Comment (ChrisHughes24) [inline SSA/Projects/FullyHomomorphicEncryption/Basic.lean:183]:
```suggestion
`R.representative` is in fact a representative of the equivalence class.
```

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean [hunk 12]
```diff
@@ -81,72 +142,240 @@ abbrev R := (ZMod q)[X] ⧸ (Ideal.span {f q n})
...
   · apply Ideal.Quotient.eq.1
     simp [R.representative', Function.surjInv_eq]
   · ring
   done
+/--
+Characterization theorem for any potential representative (in terms of elements).
+For an  `a : (ZMod q)[X]`, the representative of its equivalence class
+is a concrete element of the form `a + k * (f q n)` for some `k ∈ (ZMod q)[X]`.
+-/
+theorem R.fromPoly_rep'_eq_element (a : (ZMod q)[X]) : ∃ (k : (ZMod q)[X]), (R.fromPoly (n:=n) a).representative' = k * (f q n) + a := by
```
Comment (ChrisHughes24) [inline SSA/Projects/FullyHomomorphicEncryption/Basic.lean:214]: Try to just read the statement to name the theorem. `exists_representative_fromPoly_eq_mul_add`

Comment (ChrisHughes24) [reply SSA/Projects/FullyHomomorphicEncryption/Basic.lean:214]: But if you used `mod`, then `k` would just be `div` right. And it's nicer to get rid of the exists.

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean [hunk 13]
```diff
@@ -81,72 +142,240 @@ abbrev R := (ZMod q)[X] ⧸ (Ideal.span {f q n})
...
+  have H : ∃ (k : (ZMod q)[X]), (R.fromPoly (n:=n) a).representative' = k * (f q n) + a := by apply
+    R.fromPoly_rep'_eq_element;
+  obtain ⟨k, hk⟩ := H
+  exists k
+  ring_nf at hk ⊢
+  rw[← hk]
+  norm_cast
+
+/-- The representative of 0 wil live in the ideal of {f q n}. To show that such an element is a multiple of {f q n}, use `Ideal.mem_span_singleton'`-/
+theorem R.representative'_zero_ideal : R.representative' q n 0 ∈ Ideal.span {f q n} := by
```
Comment (ChrisHughes24) [inline SSA/Projects/FullyHomomorphicEncryption/Basic.lean:243]: Use `representative` and then it is just `0`

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean [hunk 14]
```diff
@@ -81,72 +142,240 @@ abbrev R := (ZMod q)[X] ⧸ (Ideal.span {f q n})
...
+  rw[← hab']
+  subst ha'
+  subst hb'
+  rw[← map_add] at hab'
+  rw[hab']
+  repeat rw[R.representative_fromPoly]
+  rw[Polynomial.add_modByMonic]
+
+/-- pushing and pulling negation through mod -/
+theorem neg_modByMonic (p mod : (ZMod q)[X]) : (-p) %ₘ mod = - (p %ₘ mod) := by
```
Comment (ChrisHughes24) [inline SSA/Projects/FullyHomomorphicEncryption/Basic.lean:308]: Are you sure this isn't already there? If it isn't then PR it.

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean [hunk 15]
```diff
@@ -81,72 +142,240 @@ abbrev R := (ZMod q)[X] ⧸ (Ideal.span {f q n})
...
+    have H : -p = (-1 : ZMod q) • p := by norm_num
+    have H' : - (p %ₘ mod) = (-1 : ZMod q) • (p %ₘ mod) := by norm_num
+    rw[H, H']
+    apply smul_modByMonic (R := (ZMod q)) (c := -1) (p := p) (q := mod)
+
+/-- %ₘ is a subtraction homomorphism (obviously)-/
+@[simp]
+theorem sub_modByMonic (a b mod : (ZMod q)[X]) : (a - b) %ₘ mod = a %ₘ mod - b %ₘ mod := by
```
Comment (ChrisHughes24) [inline SSA/Projects/FullyHomomorphicEncryption/Basic.lean:316]: ditto

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean (hunk 4 above)
Comment (goens) [reply SSA/Projects/FullyHomomorphicEncryption/Basic.lean:64]: That lemma doesn't seem to exist: https://github.com/search?q=repo%3Aleanprover-community%2Fmathlib4%20coe_toInt&type=code

Or are you suggesting to rename it to that?

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean (hunk 9 above)
Comment (goens) [reply SSA/Projects/FullyHomomorphicEncryption/Basic.lean:154]: The point of this is to use it in order to define `representative`, because we want to the one that has degree < deg f. We could just inline the definition, I personally find it more readable this way, but I can easily be convinced otherwise.

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean (hunk 13 above)
Comment (goens) [reply SSA/Projects/FullyHomomorphicEncryption/Basic.lean:244]: Yes, that's `R.representative_zero` below, this is just a helper lemma to prove that.

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean (hunk 14 above)
Comment (goens) [reply SSA/Projects/FullyHomomorphicEncryption/Basic.lean:294]: https://github.com/leanprover-community/mathlib4/pull/7971

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean (hunk 8 above)
Comment (ChrisHughes24) [reply SSA/Projects/FullyHomomorphicEncryption/Basic.lean:132]: This definition, or lemmas about it. There always seemed to be problems around quotients.

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean (hunk 4 above)
Comment (ChrisHughes24) [reply SSA/Projects/FullyHomomorphicEncryption/Basic.lean]: I was just suggesting a rename. Sorry for not being clear.

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean (hunk 13 above)
Comment (ChrisHughes24) [reply SSA/Projects/FullyHomomorphicEncryption/Basic.lean:229]: Get rid of `representative'`. There's no need for it. You might want to prove the lemma that two polys are equal in the quotient by `r` if `p %m r = q %m r`, which is itself equivalent to `r | p - q`

File: SSA/Projects/FullyHomomorphicEncryption/Statements.lean [hunk 16]
```diff
@@ -0,0 +1,292 @@
+import SSA.Projects.FullyHomomorphicEncryption.Basic
+import Std.Data.List.Lemmas
+import Mathlib.Data.List.Basic
+
+-- variable {q t : Nat} [ hqgt1 : Fact (q > 1)] {n : Nat}
+-- variable (a b : R q n)
+
+namespace Poly
+
+theorem mul_comm (a b : R q n) : a * b = b * a := by
```
[the remark this answers is not in the document]
Comment (goens) [reply SSA/Projects/FullyHomomorphicEncryption/Statements.lean:10]: ah, the idea of these is just to be translated explicitly into rewrites (i.e. into MLIR syntax), so I wanted to have the same structure as in InstCombine, where we have the versions on just mathematical  "objects" and then the translation into Peephole rewrites just applies them.

**Comment by goens** [comment]
In the spirit of merging fast and doing more contained PRs, I would defer the removal of `representative'` to a separate PR along with the missing sorries

**Comment by goens** [comment]
ping @bollu

**Comment by bollu** [comment]
I'm happy to merge this, thanks for incorporating all of the review changes @goens !
